US08629271B2
a) 2-(4-Fluoro-3-methylphenyl)acetic acid
2-(4-Fluoro-3-methylphenyl)acetonitrile (1 g) and sodium hydroxide (0.8 g) were combined in a mixture of methanol (10 mL) and water (3 mL). The resulting mixture was then heated at reflux overnight. The reaction was concentrated in vacuo and the residue dissolved in water (25 mL). The aqueous phase was washed with ether (2×25 mL), acidified with concentrated hydrochloric acid and extracted with ether (3×25 mL). The combined organic solutions were washed with brine, dried over sodium sulphate, filtered and evaporated in vacuo to afford the subtitled compound as a white solid. Yield 1.1 g.

reactant | 2-(4-Fluoro-3-methylphenyl)acetonitrile | 1 g | FC1=C(C=C(C=C1)CC#N)C | C9H8FN
reactant | sodium hydroxide | 0.8 g | [OH-].[Na+]
reactant | methanol | 10 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
product | 2-(4-Fluoro-3-methylphenyl)acetic acid | FC1=C(C=C(C=C1)CC(=O)O)C | C9H9FO2
